### PR TITLE
feat(GreensOpenProblems): 37

### LINKED ISSUE #1593: Green's Open Problems #37
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.37

What is the smallest subset of $\mathbb{N}$ containing, for each $d = 1, ..., N$, an arithmetic progression of length $k$ with common difference $d$?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jdhruv555**
Formalizes Ben Green's Open Problem 37: finding the smallest subset of ℕ that contains, for each d = 1, …, N, an arithmetic progression of length k with common difference d.

Closes #1593

*References:*
- [Ben Green's Open Problem 37](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.37)
- [Green & Tao, *The primes contain arbitrarily long arithmetic progressions* (arXiv:math/0404188)](https://arxiv.org/abs/math/0404188)

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/37.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
...
+*References:*
+- [Ben Green's Open Problem 37](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.37)
+- [Green & Tao, *The primes contain arbitrarily long arithmetic progressions* (arXiv:math/0404188)](https://arxiv.org/abs/math/0404188)
+-/
+
+namespace Green37
+
+open Set
+
+/-- `A` contains such a progression for every `d ∈ {1, …, N}`. -/
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/37.lean]:
```suggestion
/-- `A` contains an arithmetic progression progression of length `k` and common difference `d` for every `d ∈ {1, …, N}`. -/
```

File: FormalConjectures/GreensOpenProblems/37.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+
+/--
+Smallest size of a subset of `ℕ` that contains, for each `d = 1, …, N`,
+an arithmetic progression of length `k` with common difference `d`.
+-/
+@[category research open, AMS 05 11]
+theorem green_37 (N k : ℕ) :
+    IsLeast { m | ∃ A : Finset ℕ, A.card = m ∧ IsAPCover (A : Set ℕ) N k } (answer(sorry)) := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/37.lean:51]: For a lot of problems of this kind, the accepted solution ends up being some kind of asymptotic result, i.e. a result of the form "if m(N) is the size of the smallest such subset then m(N) satisfies [insert some asymptotic condition]". Could you add a TODO for this? (of course, feel free to work on it if you're interested!)

File: FormalConjectures/GreensOpenProblems/37.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+namespace Green37
+
+open Set
+
+/-- `A` contains such a progression for every `d ∈ {1, …, N}`. -/
+def IsAPCover (A : Set ℕ) (N k : ℕ) : Prop := ∀ d, 1 ≤ d ∧ d ≤ N → Set.ContainsAP A k d
+
+/--
+Smallest size of a subset of `ℕ` that contains, for each `d = 1, …, N`,
+an arithmetic progression of length `k` with common difference `d`.
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/37.lean]:
```suggestion
Given a natural number `N`, what is the smallest size of a subset of `ℕ` that contains, for each `d = 1, …, N`,
an arithmetic progression of length `k` with common difference `d`.
```

**Comment by jdhruv555** [comment]
Hi @Paul-Lez Applied your docstring suggestions and added both exact and asymptotic versions. The exact version (`green_37`) uses `IsLeast` as suggested, and the asymptotic version (`green_37_asymptotic`) formalizes the growth rate question for `m(N, k)` as `N` grows. Both versions are included in the same file following the pattern used in similar problems.

File: FormalConjectures/GreensOpenProblems/37.lean [hunk 4]
```diff
@@ -0,0 +1,61 @@
...
+  sorry
+
+/--
+Asymptotic version: if `m(N, k)` is the size of the smallest such subset, then `m(N, k)` satisfies
+some asymptotic condition as `N` grows.
+-/
+@[category research open, AMS 05 11]
+theorem green_37_asymptotic (k : ℕ) :
+    answer(sorry) ↔ ∃ f : ℕ → ℝ, (fun N ↦ (m N k : ℝ)) =O[atTop] f := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/37.lean:77]: Note that this theorem is true trivially because one can take `(fun N ↦ (m N k : ℝ))` :). To make this work, I think the best is to let the solver choose `f`, i.e. `(fun N ↦ (m N k : ℝ)) = (answer(sorry) : ℕ → ℝ)`.

I think it would also be worth adding some other types of asymptotic conditions (e.g. little o, etc)

File: FormalConjectures/GreensOpenProblems/37.lean [hunk 5]
```diff
@@ -0,0 +1,79 @@
...
+    IsLeast { m | ∃ A : Finset ℕ, A.card = m ∧ IsAPCover (A : Set ℕ) N k } (answer(sorry)) := by
+  sorry
+
+/--
+Asymptotic version: determine the asymptotic behavior of `m(N, k)` as `N` grows.
+The solver should determine what function `f : ℕ → ℝ` equals `(fun N ↦ (m N k : ℝ))`.
+-/
+@[category research open, AMS 05 11]
+theorem green_37_asymptotic (k : ℕ) :
+    (fun N ↦ (m N k : ℝ)) = (answer(sorry) : ℕ → ℝ) := by
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/37.lean]: If you want to make it into an asymptotics question then this should be stated using `Filter.eventually`

**Comment by jdhruv555** [comment]
Updated `green_37_asymptotic` to use `Filter.eventually` (∀ᶠ) notation as suggested.
